US05849735
N-[5-[(5,10-Dihydro-4H-thieno[3,2-c][2]benzazepin-4-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide
As described for Example 12, 5,10-dihydro-4H-thieno[3,2-c][2]benzazepine is reacted with 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride to give the product as a solid.

reactant | 5,10-dihydro-4H-thieno[3,2-c][2]benzazepine | S1C=CC=2NCC3=C(CC21)C=CC=C3 | C12H11NS
reactant | 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride | C1(=C(C=CC=C1)C(=O)NC1=CC=C(C=N1)C(=O)Cl)C1=CC=CC=C1 | C19H13ClN2O2
product | N-[5-[(5,10-Dihydro-4H-thieno[3,2-c][2]benzazepin-4-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide | S1C=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C=3C=CC(=NC3)NC(=O)C=3C(=CC=CC3)C3=CC=CC=C3 | C31H23N3O2S
